US09102664B2
b) Preparation of 2-(benzyloxy)propanoic acid (Formula-13)
A mixture of residue containing methyl 2-(benzyloxy)propanoate compound of formula-12 obtained in step-a) and water (500 ml) was cooled to 0-5° C. A solution of sodium hydroxide (51.5 g) in water (375 ml) was added to reaction mixture at 0-5° C. and stirred the reaction mixture for 1 hour at the same temperature. Temperature of the reaction mixture was raised to 25-30° C. and stirred for 4 hours at this temperature. After completion of the reaction, washed the reaction mixture with dichloromethane. Both dichloromethane and aqueous layers were separated and pH of aqueous layer was adjusted to 2.5 using 50% hydrochloric acid solution. Extracted the aqueous layer with dichloromethane. Distilled off the solvent from dichloromethane layer under reduced pressure to get the title compound as a residue. The obtained residue can be taken into next step without isolation.

reactant | methyl 2-(benzyloxy)propanoate | C(C1=CC=CC=C1)OC(C(=O)OC)C | C11H14O3
reactant | sodium hydroxide | 51.5 g | [OH-].[Na+]
solvent | water | 375 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 2-(benzyloxy)propanoic acid | C(C1=CC=CC=C1)OC(C(=O)O)C | C10H12O3
